US08034812B2
Production of N-[2-chloro-5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide
A mixture of N-[6-(3-amino-4-chlorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (103 mg, 0.30 mmol), 3-(trifluoromethyl)benzoyl chloride (75 mg, 0.36 mmol) and N-methylpyrrolidone (3.0 mL) was heated to 50° C., and the mixture was stirred for 10 min. The reaction mixture was poured into saturated aqueous sodium hydrogencarbonate solution, and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/19→ethyl acetate) to give the title compound (131 mg, 85%) as a white powder.

reactant | N-[6-(3-amino-4-chlorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.30 mmol, 103 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1Cl | C16H14ClN5O2
reactant | 3-(trifluoromethyl)benzoyl chloride | 0.36 mmol, 75 mg | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N-methylpyrrolidone | 3.0 mL | CN1C(CCC1)=O | C5H9NO
product | N-[2-chloro-5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide | 131 mg, 85% | ClC1=C(C=C(C=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O | C24H17ClF3N5O3
